US07473417B2
Step 2: Preparation of (3-(3-iodo-4-hydroxyphenyl)-2-propenoic acid-tyrosine ethyl ester)
To a 250 mL 3-necked round bottomed flask equipped with an overhead stirrer may be added 17.0 g of 3-(3-iodo-4-hydroxyphenyl)-2-propenoic acid, 12.25 g (0.0585 moles) or tyrosine ethyl ester, and 25 mL of NMP. The mixture may be stirred until a clear solution is obtained. The flask may be cooled in an ice-water bath, the 11.84 g (0.0619 moles) of EDCI HCl may be added in one portion, followed by 15 mL of NMP. The cooling bath may be removed after 2.5 hours, and the reaction may be allowed to continue overnight at room temperature. 71 mL of ethyl acetate may be added, and stirring may be maintained for 15 more minutes. The crude may then be transferred into a 500 mL separatory funnel, and extracted once with 75 mL of brine, then with two aliquots (75 and 35 mL) of 3% NaHCO3/14% NaCl, followed by 35 mL aliquots of 0.4M HCl/14% NaCl, and finally with brine. The organic phase may be dried over magnesium sulfate and treated with activated carbon, filtered and concentrated to a thick syrup, which may crystallize into a solid mass after a few hours. The product may be triturated in methylene chloride using mechanical stirring, then it may be recovered by filtration and dried under a nitrogen stream followed by high vacuum.

reactant | 3-(3-iodo-4-hydroxyphenyl)-2-propenoic acid | 17.0 g | IC=1C=C(C=CC1O)C=CC(=O)O | C9H7IO3
reactant | tyrosine ethyl ester | C(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C11H15NO3
reactant | NMP | 25 mL | CN1CCCC1=O | C5H9NO
reactant | EDCI HCl | 0.0619 moles, 11.84 g | CCN=C=NCCCN(C)C.Cl
reactant | NMP | 15 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 71 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3-iodo-4-hydroxyphenyl)-2-propenoic acid tyrosine ethyl ester | IC=1C=C(C=CC1O)C=CC(=O)O.C(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | InChI=1S/C11H15NO3.C9H7IO3/c1-2-15-11(14)10(12)7-8-3-5-9(13)6-4-8;10-7-5-6(1-3-8(7)11)2-4-9(12)13/h3-6,10,13H,2,7,12H2,1H3;1-5,11H,(H,12,13)/t10-;/m0./s1
